US07071201B2
Example 149: Synthesis of 1-[1-(4-fluorophenethyl)-piperdin-4-yl]-6-(ethylcarbamoylmethyl)indoline
Under ice cooling, 1,1′-carbonyldiimidazole (1.0 g) was added to a solution of 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-carboxymethylindoline (2.0 g) in dimethylformamide (40 ml). After stirring the mixture for 2 hr, ethylamine hydrochloride (0.51 g) was added thereto. Then the resultant mixture was allowed to warm to room temperature and stirred for additional 5 hr. A saturated aqueous solution of sodium bicarbonate and ethyl acetate were added to the reaction solution and the layers were separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Then the residue was dissolved in hot toluene (10 ml). After allowing to cool to room temperature, the resulting crystals were collected by filtration to give the title compound (1.3 g) as a white powder (yield: 56%).

reactant | 1,1′-carbonyldiimidazole | 1.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-carboxymethylindoline | 2.0 g | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)CC(=O)O)C=C1 | C23H27FN2O2
reactant | ethylamine hydrochloride | 0.51 g | Cl.C(C)N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[1-(4-fluorophenethyl)-piperdin-4-yl]-6-(ethylcarbamoylmethyl)indoline | 1.3 g, yield: 56% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)CC(NCC)=O)C=C1 | C25H32FN3O
